US05739143
a) 2-Methylthiopyrimidine-4-carboxaldehyde [1-t-butoxycarbonyl-4-aminopiperidine]imine
2-Methylthiopyrimidine-4-carboxaldehyde (1.51 g, 9.8 mmol), 1-t-butoxycarbonyl-4-aminopiperidine (Mach R. H., et al., J. Med. Chem. 1993 36, 3707) (2.1 g, 10.5 mmol), MgSO4 (ca 2 g) and CH2 Cl2 (75 mL) were combined and stirred at 23° C. for 16 h. Filtration and concentration of the filtrate afforded the title compound as a yellow oil: 1H NMR (CDCl3) δ 8.57 (d, 1), 8.27 (s, 1), 7.58 (d, 1), 4.05 (m, 2), 3.55 (m, 1), 3.00 (m, 2), 2.60 (s, 3), 1.75 (m, 4), 1.48 (s, 9).

reactant | 2-Methylthiopyrimidine-4-carboxaldehyde | 9.8 mmol, 1.51 g | CC1=NC=CC(=N1)C=S | C6H6N2S
reactant | 1-t-butoxycarbonyl-4-aminopiperidine | 10.5 mmol, 2.1 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N | C10H20N2O2
reactant | MgSO4 | ca 2 g | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | Cl2 | 75 mL | ClCl | Cl2
product | 2-Methylthiopyrimidine-4-carboxaldehyde [1-t-butoxycarbonyl-4-aminopiperidine]imine | C(C)(C)(C)OC(N1CCC(CC1)N)=N.CC1=NC=CC(=N1)C=S | InChI=1S/C10H21N3O.C6H6N2S/c1-10(2,3)14-9(12)13-6-4-8(11)5-7-13;1-5-7-3-2-6(4-9)8-5/h8,12H,4-7,11H2,1-3H3;2-4H,1H3
